US07750002B2
To a solution of N-BOC-piperazine (300 mg) in MeCN (5 mL) was added potassium carbonate (289 mg) followed by methanesulfonic acid 5-methyl-isoxazol-3-ylmethyl ester (369 mg). The reaction mixture was heated to reflux for 24 h. After cooling the reaction mixture was diluted with water extracted into ethyl acetate, dried (MgSO4) and the solvent was removed in vacuo to yield 4-(5-methyl-isoxazol-3-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester (404 mg).

reactant | N-BOC-piperazine | 300 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 289 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonic acid 5-methyl-isoxazol-3-ylmethyl ester | 369 mg | CC1=CC(=NO1)COS(=O)(=O)C | C6H9NO4S
solvent | MeCN | 5 mL | CC#N | C2H3N
solvent | water | O | H2O
product | 4-(5-methyl-isoxazol-3-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester | 404 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=NOC(=C1)C | C14H23N3O3
